US06924375B2
S-2-Pyridyl 4-methoxybenzothioate (6b).
Following the general procedure described above, reaction of p-anisoyl chloride (4.70 g, 30.0 mmol) with 2-mercaptopyridine (3.33 g, 30.0 mmol) in THF (30 mL) for 30 min at room temperature afforded pale yellow solid after precipitation (6.70 g, 91%): mp 73° C.; 1H NMR δ 3.88 (s, 3H), 6.93-7.00 (m, 2H), 7.30-7.34 (m, 1H), 7.70-7.74 (m, 2H), 7.75-7.80 (m, 1H), 7.97-8.02 (m, 1H), 8.64-8.69 (m, 1H); Anal. Calcd for C13H11NO2S: C, 63.65; H, 4.52; N, 5.71. Found: C, 63.78; H, 4.59; N, 5.66.

reactant | p-anisoyl chloride | 30.0 mmol, 4.70 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 2-mercaptopyridine | 30.0 mmol, 3.33 g | SC1=NC=CC=C1 | C5H5NS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | S-2-Pyridyl 4-methoxybenzothioate | COC1=CC=C(C(SC2=NC=CC=C2)=O)C=C1 | C13H11NO2S
